US07893085B2
7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a cooled (0° C.) solution of 7-fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (330 mg, 0.81 mmol) in DCM (10 mL) was added iodine monochloride (1M in DCM, 1.6 mL, 1.6 mmol) dropwise. On complete addition the mixture was allowed to stir at 0° C. for 1 hour then quenched by the addition of saturated sodium thiosulphate solution (10 mL). The mixture was stirred vigorously for 10 min and partitioned between ethyl acetate and water. The organic layer was separated and washed with a saturated solution of sodium hydrogenocarbonate followed by brine, dried over sodium sulphate, filtered and concentrated to give the title compound as a yellow solid (358 mg, 54%). LCMS (method B): RT=4.72 min, M+H+=461.

reactant | 7-fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.81 mmol, 330 mg | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H20F2N2O2SSi
reactant | iodine monochloride | 1.6 mmol, 1M, 1.6 mL | ICl | ClI
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 358 mg, 54% | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)I)F | C16H11F2IN2O2S
